*****************************************************************
* NXP BUK9K18-40E
*
* Polarity N-Channel
* Ratings 40V/1.800000E-002OHMS/30A
*
* Date Created Tue Sep 11 03:48:39 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K18-40E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0112916146425219 TC=0.00401841717561539,1.69231246698811E-05
RBD 9 4 0.00276327047552405 TC=0.00401841717561539,1.69231246698811E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 7.14e-10
RG 1 2 2.67663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	99.469
+ -10	106.553
+ -5	118.118
+ -4	123.284
+ -3	129.802
+ -2	147.211
+ -1	154.766
+ -0.5	166.483
+ -0.2	184.846
+ -0.1	213.025
+ 0	212.248
+ 0.1	213.236
+ 0.2	182.708
+ 0.5	161.085
+ 1	144.15
+ 2	126.635
+ 3	116.764
+ 4	109.717
+ 5	104.265
+ 6	100.281
+ 8	95.185
+ 10	92.129
+ 12	90.027
+ 15	87.706
+ 20	84.729



.MODEL MINT NMOS(Vto=2.062646098816 Kp=7.213540e+001 Nfs=440000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=8.1710069081672e-13
+ N=1 M=0.58 VJ=0.67 Fc=0.5 Cjo=4.27682e-10 Tt=2.37e-08)

.ENDS